US04731382
A. 1,10-Decanedicarboxylic Anhydride
A stirred mixture of 23 gms (0.1 mole) of 1,10-decanedicarboxylic acid and 18 gms (0.1 mole) of acetic anhydride was refluxed for 18 hours and then concentrated in vacuo to remove acetic acid and excess acetic anhydride. The residue was dissolved in 300 ml methylene chloride, filtered, washed with ice-cold 5% sodium bicarbonate solution, water, and saturated sodium chloride. After the final separation of the layers the organic solution was dried over MgSO4, filtered, and evaporated in vacuo to give 20 gms crude product. This was purified by dissolving it in 100 ml boiling methylene chloride, filtering hot, diluting with 200 ml hexanes, and refrigerating. This resulted 13 gms pure title product m.p. 85°-9°.

reactant | 1,10-decanedicarboxylic acid | 0.1 mole, 23 gms | C(CCCCCCCCCC(=O)O)C(=O)O | C12H22O4
reactant | acetic anhydride | 0.1 mole, 18 gms | C(C)(=O)OC(C)=O | C4H6O3
product | 1,10-Decanedicarboxylic Anhydride | 20 gms | C1CCCCCCCCCC(=O)OC1=O | C12H20O3
